US04968702
3-Amino-6-chloro-2-(2'-fluoro[1,1'-biphenyl]-4-yl) -4-quinolinecarboxylic acid
To a stirred suspension of 4.54 g of 5-chloroisatin in 40 ml of water was added a solution of 5.62 g of sodium hydroxide in 20 ml of water. To the resulting solution at 85°-90° C. was added dropwise over 2 hours, a warm solution of 9.3 g of 2-amino-1-(2'-fluoro[1,1'-biphenyl]-4-yl)ethanone, hydrochloride in 70 ml of water, 70 ml of ethanol and 30 ml of tetrahydrofuran. This mixture was stirred at reflux for 2 hours then the ethanol was distilled off. The reaction was cooled in an ice bath, the solid collected and washed with water. This solid was stirred in 800 ml of water for 2 hours and then filtered. The filtrate was acidified to pH 4-5 with acetic acid. The resulting solid was collected, washed with water and dried, giving 6.6 g of the desired product as a yellow solid, mp 247°-249° C.

reactant | 5-chloroisatin | 4.54 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | sodium hydroxide | 5.62 g | [OH-].[Na+]
reactant | 2-amino-1-(2'-fluoro[1,1'-biphenyl]-4-yl)ethanone, hydrochloride | 9.3 g | Cl.NCC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)F
solvent | water | 40 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 70 ml | O | H2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-Amino-6-chloro-2-(2'-fluoro[1,1'-biphenyl]-4-yl) -4-quinolinecarboxylic acid | 6.6 g | NC=1C(=NC2=CC=C(C=C2C1C(=O)O)Cl)C1=CC=C(C=C1)C1=C(C=CC=C1)F | C22H14ClFN2O2
